US09210927B2
Preparation of (E)-tert-Butyl 5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)indoline-1-carboxylate (BI13)
To a stirred solution of tert-butyl-5-vinylindoline-1-carboxylate (1.28 g, 5.23 mmol) in 1,2-dichlorobenzene (10.0 mL), was added 5-(1-bromo-2,2,2-trifluoroethyl)-1,3-dichloro-2-fluorobenzene (3.4 g, 10 mmol), CuCl (103 mg, 1.05 mmol) and 2,2-bipyridyl (0.326 g, 2.092 mmol) and the resultant reaction mixture was degassed with argon for 30 min and heated to 150° C. for 1 h. The reaction mixture was cooled to ambient temperature and filtered and the filtrate was concentrated under reduced pressure. The crude compound was purified by column chromatography (SiO2, 100-200 mesh; 2% ethyl acetate/petroleum ether) to afford the title compound as a pale yellow gummy solid (0.3 g, 61%): 1H NMR (400 MHz, CDCl3) δ 7.34 (d, J=6.0 Hz, 2H), 7.22 (s, 2H), 7.16 (d, J=8.4 Hz, 1H), 6.52 (d, J=16.0 Hz, 1H), 6.21 (dd, J=16.0, 7.6 Hz, 1H), 4.07 (m, 3H), 3.10 (t, J=8.4 Hz, 2H), 1.55 (s, 9H); ESIMS m/z 433.79 ([M−H]−); IR (thin film) 1168, 858 cm−1.

reactant | tert-butyl-5-vinylindoline-1-carboxylate | 5.23 mmol, 1.28 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)C=C | C15H19NO2
reactant | 5-(1-bromo-2,2,2-trifluoroethyl)-1,3-dichloro-2-fluorobenzene | 10 mmol, 3.4 g | BrC(C(F)(F)F)C=1C=C(C(=C(C1)Cl)F)Cl | C8H3BrCl2F4
reactant | 2,2-bipyridyl | 2.092 mmol, 0.326 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 10.0 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 1.05 mmol, 103 mg | Cl[Cu]
product | (E)-tert-Butyl 5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)indoline-1-carboxylate | 0.3 g, 61% | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C)C(F)(F)F | C23H21Cl2F4NO2
